US06756378B2
A mixture of methyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]benzoate (3.34 g, 9.96 mmol) in TFA (20 mL) and CH2Cl1 (35 mL) was stirred at room temp for 15 hr. The mixture was concentrated in vacuo and made basic with sat. NaHCO3. The mixture was extracted with CHCl3, washed with brine, and dried over Na2CO3. The organic layer was evaporated to give 1.70 g (73%) methyl (S)-4-(2-pyrrolidinylmethoxy)benzoate as a yellow oil. 1H-NMR (CDCl3) δ1.54-1.61 (m, 1 H), 1.77-1.86 (m, 2 H), 1.87-1.97 (m, 1 H), 2.00 (bs, 1 H), 2.93-3.06 (m, 2 H), 3.52-3.57 (m, 1 H), 3.88 (s, 3 H), 3.90-3.99 (m, 2 H), 6.92 (d, J=9.0 Hz, 2 H), 7.98 (d, J=9.0 Hz, 2H).

reactant | methyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]benzoate | 9.96 mmol, 3.34 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C(=O)OC)C=C1 | C18H25NO5
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl (S)-4-(2-pyrrolidinylmethoxy)benzoate | 1.70 g, 73% | N1[C@@H](CCC1)COC1=CC=C(C(=O)OC)C=C1 | C13H17NO3
